US08039479B2
4-(5-Isopropoxy-2-methyl-4-nitro-phenyl)-1-methyl-pyridinium iodide from the previous step (0.697 mmol) is dissolved in CH3OH (20 mL) and cooled to 0° C. NaBH4 (264 mg, 6.97 mmol, 10 equiv.) is slowly added. After this addition is complete, the cooling bath is removed and the reaction is stirred at room temperature for 1 h. The reaction is quenched by the slow addition of 1N aqueous HCl (14 mL). The CH3OH is partially removed by vacuum. The resulting residue is partitioned between EtOAc and 1 N aqueous NaOH. Additional 50% aqueous NaOH is added until the aqueous layer pH >12. The EtOAc layer is washed with 1 N aqueous NaOH (2×), the organic layer is then dried over Na2SO4, filtered, and concentrated under vacuum. After concentration, the crude product (175 mg) is dissolved in acetic acid (10 mL). TFA (0.15 mL, 3 equiv.) and PtO2 (53 mg, 30% w/w) are added and the reaction is placed under 50 psi H2 gas in a Parr Shaker for 14 h. The reaction mixture is filtered and the filtrate is concentrated under vacuum. The resulting residue is partitioned between EtOAc and 1 N aqueous NaOH. Additional 50% aqueous NaOH is added until the aqueous layer pH >12. The EtOAc layer is washed with 1 N aqueous NaOH (2×), the organic layer is then dried over Na2SO4, filtered, and concentrated under vacuum to give 2-Isopropoxy-5-methyl-4-(1-methyl-piperidin-4-yl)-phenylamine which is used in Step 4 without further purification: ESMS m/z 263.2 (M+H+).

reactant | 4-(5-Isopropoxy-2-methyl-4-nitro-phenyl)-1-methyl-pyridinium iodide | [I-].C(C)(C)OC=1C(=CC(=C(C1)C1=CC=[N+](C=C1)C)C)[N+](=O)[O-]
reactant | NaBH4 | 6.97 mmol, 264 mg, 10 equiv. | [BH4-].[Na+]
reactant | TFA | 0.15 mL, 3 equiv. | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH3OH | 20 mL | CO | CH4O
catalyst | PtO2 | 53 mg | O=[Pt]=O
product | 2-Isopropoxy-5-methyl-4-(1-methyl-piperidin-4-yl)-phenylamine | C(C)(C)OC1=C(C=C(C(=C1)C1CCN(CC1)C)C)N | C16H26N2O
